US04349552
The reaction of 6-t-butoxycarbonylaminohexanoic acid and diphenylphosphoryl azide in a solution of triethyl amine and benzene provided a solution comprising 5-t-butoxycarbonylaminopentyl isocyanate, which was reacted with 5-fluorouracil to provide 1-[N-(5-t-butoxycarbonylaminopentyl)carbamoyl]-5-fluorouracil substantially in the similar method to that of Example 20.

reactant | 6-t-butoxycarbonylaminohexanoic acid | C(C)(C)(C)OC(=O)NCCCCCC(=O)O | C11H21NO4
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 5-t-butoxycarbonylaminopentyl isocyanate | C(C)(C)(C)OC(=O)NCCCCCN=C=O | C11H20N2O3
reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 1-[N-(5-t-butoxycarbonylaminopentyl)carbamoyl]-5-fluorouracil | C(C)(C)(C)OC(=O)NCCCCCNC(=O)N1C(=O)NC(=O)C(=C1)F | C15H23FN4O5
